US05700940
65. Preparation of 2-Benzylthio-5-chloro-8-methoxy[1,2,4]triazolo[1,5-a]pyridine
t-Butyl nitrite (6.7 mL, 5.2 g, 50 mmol) was added all at once to a mixture of 2-amino-5-chloro-8-methoxy[1,2,4]triazolo[1,5-a]pyridine (5.0 g, 25 mmol) and dibenzyl disulfide (18.6 g, 75 mmol) in acetonitrile (250 mL) at 35° C. with stirring. The reaction was exothermic, but a mantle was placed under the reaction flask to heat it to reflux rapidly. The evolution of gas began immediately and stopped after about 15 minutes. The volatiles were removed by evaporation and the residue was purified by column chromatography on silica gel eluting with 30 percent ethyl acetate in hexane. The dibenzyl disulfide eluted first followed by the title compound. The solvent was removed by evaporation and the residue was mixed with hexane and filtered. The collected solids were dried to obtain 6.1 g of the title compound as a light tan powder melting at 99°-100° C.

reactant | t-Butyl nitrite | 50 mmol, 6.7 mL, 5.2 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 2-amino-5-chloro-8-methoxy[1,2,4]triazolo[1,5-a]pyridine | 25 mmol, 5.0 g | NC1=NN2C(C(=CC=C2Cl)OC)=N1 | C7H7ClN4O
reactant | dibenzyl disulfide | 75 mmol, 18.6 g | C(C1=CC=CC=C1)SSCC1=CC=CC=C1 | C14H14S2
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | 2-Benzylthio-5-chloro-8-methoxy[1,2,4]triazolo[1,5-a]pyridine | 6.1 g | C(C1=CC=CC=C1)SC1=NN2C(C(=CC=C2Cl)OC)=N1 | C14H12ClN3OS
